US06566373B2
(b) N-benzo[b]thiophene-2-ylcarbonyl-L-leucine
Lithium hydroxide (1.41 g, 59 mmol) was added in one portion to a stirred solution of N-benzo[b]thiophene-2-ylcarbonyl-L-leucine methyl ester (8.99 g, 29.4 mmol) in THF/H2O (1/1, 300 ml). After stirring for 12 hours at room temperature, the mixture was poured into water and acidifed to pH 1 with cHCl and extracted with Et2O (×2). Evaporation under reduced pressure afforded the title compound as a yellow solid, 6.1 g, 71% yield.

reactant | Lithium hydroxide | 59 mmol, 1.41 g | [OH-].[Li+]
reactant | N-benzo[b]thiophene-2-ylcarbonyl-L-leucine methyl ester | 29.4 mmol, 8.99 g | COC([C@@H](NC(=O)C1=CC2=C(S1)C=CC=C2)CC(C)C)=O | C16H19NO3S
reactant | water | O | H2O
reactant | cHCl | [CH]Cl | CHCl
solvent | THF H2O | 300 ml | C1CCOC1.O
product | N-benzo[b]thiophene-2-ylcarbonyl-L-leucine | 71% yield | S1C2=C(C=C1C(=O)N[C@@H](CC(C)C)C(=O)O)C=CC=C2 | C15H17NO3S
